2156-11-21 08:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2156-11-20**] 11:01 AM
 INVASIVE VENTILATION - START [**2156-11-20**] 11:30 AM
 FEVER - 101.7
F - [**2156-11-20**] 11:00 AM
 PAN CULTURE - At [**2156-11-20**] 10:47 PM
   - Hypernatremia:  Goal correction from 156->150 in AM.  Pt's free water
   deficit 5L, started on 1/2D5 at 150 cc/hr. 2230 Na --.
   - Curbsided ID re: antibiotic coverage of ENTEROBACTER CLOACAE (and
   concern for inducing resistance), as well as pt's cont'd fevers x 6
   days and increased secretions in last day despite being on broad
   spectrum abx (vanc, zosyn). ID rec'ed: 1) pan-culturing the pt again
   (sputum, urine, blood) to see if pt grows the same organism, if that
   organism has become resistant, or if he grows a new organism. 2)also,
   given concerns about treatment failure, rec'd broadening abx coverage
   by changing from zosyn to meropenem AFTER pt cultured.
   - received 2U FFP today
   - due to elevated sugars, started ISS
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-20**] 12:00 PM
   Metronidazole - [**2156-11-20**] 06:01 PM
   Vancomycin - [**2156-11-20**] 08:00 PM
   Meropenem - [**2156-11-21**] 01:50 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-20**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-21**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.6
C (99.6
   HR: 85 (78 - 111) bpm
   BP: 110/55(68) {103/47(60) - 158/73(91)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,151 mL
                                                                  1,307 mL
   PO:
             TF:
   IVF:
                                                                  1,411 mL
                                                                  1,247 mL
   Blood products:
                                                                    590 mL
   Total out:
                                                                    880 mL
                                                                    280 mL
   Urine:
                                                                    880 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                  1,027 mL
   Respiratory support
   2L NC
   Physical Examination
   General Appearance:  Somnolent but arousable and responsive to verbal
   commands, No acute distress, Head injury
   Cardiovascular: RRR, GII systolic murmer at LSB and apex
   Respiratory / Chest: CTAB with equal BS b/l
   Abdominal: Bowel sounds present, Distended, soft
   Extremities: 1+ pedal edema b/l
   Labs / Radiology
   41 K/uL
   7.3 g/dL
   168 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.5 mEq/L
   27 mg/dL
   112 mEq/L
   152 mEq/L
   24.0 %
   3.8 K/uL
        [image002.jpg]
                             [**2156-11-17**]  11:39 AM
                             [**2156-11-17**]  01:28 PM
                             [**2156-11-17**]  05:48 PM
                            [**2156-11-18**]  02:21 AM
                            [**2156-11-18**]  02:35 AM
                            [**2156-11-18**]  11:52 AM
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
   WBC
   5.4
   5.4
   5.5
   5.2
   3.8
   Hct
   25.8
   25.8
   24.7
   23.0
   24.0
   Plt
   37
    37
   60
   39
   41
   Cr
   1.0
   1.0
   0.9
   0.9
   0.7
   TCO2
   34
   34
   34
   39
   Glucose
   132
   136
   150
   138
   168
   Other labs: PT / PTT / INR:24.2/48.0/2.3, ALT / AST:33/56, Alk Phos / T
   Bili:166/15.8, Amylase / Lipase:/23, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:109 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.0 g/dL, LDH:393 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy.
   - ID consult
   - Continue Vanc
   - Start Meropenem
   - D/C Zosyn/Flagyl
   - Wean off ventilator and extubate today
   .
   # Hypernatremia:  Free water deficit of 4.8 liters [**11-20**], given D5
   @ 150cc/hr x 1500cc.  Free water deficit 3.9L [**11-21**] and given 1L D5W.
   - 1L D5W today, re-check Na in the morning
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning
   - daily INR
   - hold on FFP for now, as INR not significantly elevated.
   .
   #. Altered mental status: Likely secondary to hypoxia Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 26. In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - D/C thiamine, folate, MVI
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head  CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   #. EtOH History: out of window for withdrawal
   .
   # FEN: Follow nutrition recommendations.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   # Dispo:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-21 10:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Arousable on 20 of propofol this AM
   24 Hour Events:
 PICC LINE - START [**2156-11-20**] 11:01 AM
 INVASIVE VENTILATION - START [**2156-11-20**] 11:30 AM
 PAN CULTURE - At [**2156-11-20**] 10:47 PM
 FEVER - 101.7
F - [**2156-11-20**] 11:00 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-20**] 12:00 PM
   Metronidazole - [**2156-11-20**] 06:01 PM
   Meropenem - [**2156-11-21**] 01:50 AM
   Vancomycin - [**2156-11-21**] 09:07 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-21**] 08:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-21**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.3
C (99.1
   HR: 86 (78 - 111) bpm
   BP: 111/54(67) {103/47(60) - 158/73(91)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,151 mL
                                                                  2,014 mL
   PO:
             TF:
   IVF:
                                                                  1,411 mL
                                                                  1,864 mL
   Blood products:
                                                                    590 mL
   Total out:
                                                                    880 mL
                                                                    400 mL
   Urine:
                                                                    880 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                  1,614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 397 (397 - 405) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 10 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.41/59/74/34/9
   Ve: 7 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   41 K/uL
   168 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.5 mEq/L
   27 mg/dL
   112 mEq/L
   152 mEq/L
   24.0 %
   3.8 K/uL
        [image002.jpg]
                             [**2156-11-17**]  11:39 AM
                             [**2156-11-17**]  01:28 PM
                             [**2156-11-17**]  05:48 PM
                            [**2156-11-18**]  02:21 AM
                            [**2156-11-18**]  02:35 AM
                            [**2156-11-18**]  11:52 AM
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
   WBC
   5.4
   5.4
   5.5
   5.2
   3.8
   Hct
   25.8
   25.8
   24.7
   23.0
   24.0
   Plt
   37
    37
   60
   39
   41
   Cr
   1.0
   1.0
   0.9
   0.9
   0.7
   TCO2
   34
   34
   34
   39
   Glucose
   132
   136
   150
   138
   168
   Other labs: PT / PTT / INR:24.2/48.0/2.3, ALT / AST:33/56, Alk Phos / T
   Bili:166/15.8, Amylase / Lipase:/23, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:109 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.0 g/dL, LDH:393 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46 yo man with cirrhosis, intracranial hemorrhage s/p fall, recurrent
   respiratory failure.
   1. Respiratory Failure: Secretions down, arousable.  Will extubate
   today.  Cont vanc/[**Last Name (un) **].  D/C Flagyl
   2. Hypernatremia: Na improving - will continue to replete fH20 with D5W
   3. Intracranial hemorrhage: Had multiple stable head CTs.  Will not
   give further FFP today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2156-11-22 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-11-21**] 01:15 PM
   - Extubated
   - Family concerned re: increased head bleed and increased tremulousness
   (head bobbing)
   - [**Last Name (un) 1540**] started
   - 3.9L free water deficit - given 2L D5W at 150cc/hr (Na up from 152 to
   156 over past 24 hours)
   - Liver recs:  cont D5W. When stable Na, give Lasix.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-20**] 12:00 PM
   Vancomycin - [**2156-11-21**] 07:49 PM
   Metronidazole - [**2156-11-22**] 02:01 AM
   Meropenem - [**2156-11-22**] 06:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-21**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-22**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 89 (84 - 102) bpm
   BP: 125/60(75) {107/45(62) - 129/65(79)} mmHg
   RR: 15 (15 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,215 mL
                                                                    844 mL
   PO:
             TF:
   IVF:
                                                                  3,825 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                    908 mL
                                                                    360 mL
   Urine:
                                                                    908 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,307 mL
                                                                    484 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (397 - 430) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 7.5 L/min
   Physical Examination
   GEN: nad, head bobbing spontaneously, mumbles/groans to questions
   CV: rrr, no murmurs
   PULM: relatively clear b/l
   ABD: soft, nt, +distended
   EXTR: no edema
   Labs / Radiology
   41 K/uL
   7.1 g/dL
   147 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.5 mEq/L
   26 mg/dL
   116 mEq/L
   156 mEq/L
   21.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2156-11-17**]  01:28 PM
                             [**2156-11-17**]  05:48 PM
                            [**2156-11-18**]  02:21 AM
                            [**2156-11-18**]  02:35 AM
                            [**2156-11-18**]  11:52 AM
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
   WBC
   5.4
   5.4
   5.5
   5.2
   3.8
   4.5
   Hct
   25.8
   25.8
   24.7
   23.0
   24.0
   21.7
   Plt
   37
    37
   60
   39
   41
   41
   Cr
   1.0
   1.0
   0.9
   0.9
   0.7
   0.7
   TCO2
   34
   34
   39
   Glucose
   132
   136
   150
   138
   168
   147
   Other labs: PT / PTT / INR:29.2/54.8/2.9, ALT / AST:29/46, Alk Phos / T
   Bili:177/17.4, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:68 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.0 g/dL, LDH:366 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
[**11-20**] sputum; GRAM STAIN (Final [**2156-11-21**]):
   >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE
   No new micro data for blood or urine cultures.
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**].
   - ID consult
   - Continue Vanc and meropenem and flagyl
   - Diurese today, goal 1L negative, with 80 lasix and 100 spironolactone
   this morning; check I&O  this afternoon
   .
   # Hypernatremia:  Free water deficit of 4.8 liters [**11-20**], given D5
   @ 150cc/hr x 1500cc.  Free water deficit 3.9L [**11-21**] and given 1L D5W.
   - Continues hypernatremic, concern contributing to AMS
   - Calculate free water deficit and given D5W as appropriate
 150ml/hr
   x 2L
   - check 5pm Na, K, Mg
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, check level today and adjust as
   appropriate per pharmacy
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning
   - daily INR
   - hold on giving FFP or cryo today
   .
   #. Altered mental status: Likely secondary to hypoxia Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 26. In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head  CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, and 150 free
   water flushes q6h.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   # Dispo:  ICU for now
   ICU Care
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Code status: Full code

2156-11-22 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Na back up to 156
   Mumbling responses to questions today
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-11-21**] 01:15 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-20**] 12:00 PM
   Meropenem - [**2156-11-22**] 06:20 AM
   Vancomycin - [**2156-11-22**] 09:26 AM
   Metronidazole - [**2156-11-22**] 10:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-22**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 87 (85 - 102) bpm
   BP: 123/53(69) {112/45(64) - 131/65(79)} mmHg
   RR: 16 (15 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,215 mL
                                                                  1,556 mL
   PO:
             TF:
   IVF:
                                                                  3,825 mL
                                                                  1,376 mL
   Blood products:
   Total out:
                                                                    908 mL
                                                                    500 mL
   Urine:
                                                                    908 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,307 mL
                                                                  1,056 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (420 - 420) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: No(t) Normocephalic, forhead lac dressing
   soaked with blood but not actively bleeding
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, more
   verbal
   Labs / Radiology
   7.1 g/dL
   41 K/uL
   147 mg/dL
   0.7 mg/dL
   33 mEq/L
   3.5 mEq/L
   26 mg/dL
   116 mEq/L
   156 mEq/L
   21.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2156-11-17**]  01:28 PM
                             [**2156-11-17**]  05:48 PM
                            [**2156-11-18**]  02:21 AM
                            [**2156-11-18**]  02:35 AM
                            [**2156-11-18**]  11:52 AM
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
   WBC
   5.4
   5.4
   5.5
   5.2
   3.8
   4.5
   Hct
   25.8
   25.8
   24.7
   23.0
   24.0
   21.7
   Plt
   37
    37
   60
   39
   41
   41
   Cr
   1.0
   1.0
   0.9
   0.9
   0.7
   0.7
   TCO2
   34
   34
   39
   Glucose
   132
   136
   150
   138
   168
   147
   Other labs: PT / PTT / INR:29.2/54.8/2.9, ALT / AST:29/46, Alk Phos / T
   Bili:177/17.4, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:68 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.0 g/dL, LDH:366 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46 yo man with cirrhosis, intracranial hemorrhage s/p fall, recurrent
   respiratory failure.
   1. Respiratory Failure: Now extubated and doing well though CXR looks
   like he has increasing effusions.  Cont vanc/[**Last Name (un) **].  Diuresis as
   tolerated.
   2. Hypernatremia: Na back up today - continue with more aggressive fH20
   repletion
   3. Intracranial hemorrhage: Has been stable
   4. Coagulopathy: Hold on further FFP today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2156-11-23 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure, subdural hematoma, ESLD
   24 Hour Events:
   - dilantin level 18 (within goal range of [**9-28**])
   - did not diurese, per hepatology - wait until Na corrects first
   (giving D5W)
   - forehead oozing
   - monitoring hypernatremia: yesterday from 156
 144
 154 (but icteric
   spec)
 147 this AM
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-20**] 12:00 PM
   Vancomycin - [**2156-11-22**] 08:02 PM
   Metronidazole - [**2156-11-23**] 02:07 AM
   Meropenem - [**2156-11-23**] 06:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-22**] 08:00 PM
   Other medications:
   Flowsheet Data as of  [**2156-11-23**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 93 (83 - 95) bpm
   BP: 111/57(67) {107/43(60) - 132/63(76)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,187 mL
                                                                  1,712 mL
   PO:
             TF:
                                                                    191 mL
                                                                    305 mL
   IVF:
                                                                  3,426 mL
                                                                  1,138 mL
   Blood products:
   Total out:
                                                                    943 mL
                                                                    222 mL
   Urine:
                                                                    943 mL
                                                                    222 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,244 mL
                                                                  1,490 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   GEN: nad, mumbles  to questions, said
 to name, follows commands
   (squeezes right hand)
   CV: rrr, no murmurs
   PULM: relatively clear b/l
   ABD: soft, nt, +distended
   EXTR: 2+  edema
   Labs / Radiology
   31 K/uL
   6.3 g/dL
   167 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   26 mg/dL
   113 mEq/L
   147 mEq/L
   19.1 %
   4.3 K/uL
        [image002.jpg]
                            [**2156-11-18**]  02:35 AM
                            [**2156-11-18**]  11:52 AM
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
                            [**2156-11-22**]  03:54 PM
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
   WBC
   5.4
   5.5
   5.2
   3.8
   4.5
   4.3
   Hct
   25.8
   24.7
   23.0
   24.0
   21.7
   19.1
   Plt
    37
   60
   39
   41
   41
   31
   Cr
   0.9
   0.9
   0.7
   0.7
   0.6
   0.7
   0.8
   TCO2
   34
   39
   Glucose
   150
   138
   168
   147
   417
   167
   Other labs: PT / PTT / INR:29.4/59.2/2.9, ALT / AST:27/49, Alk Phos / T
   Bili:172/14.8, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:68 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:366 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Phenytoin 13
   Imaging: CXR [**11-22**] Cardiomediastinal silhouette is unchanged but there
   is interval
   increase in pulmonary edema and layering pleural effusions, large and
   bilateral.
   CXR [**11-23**] relatively unchanged
   Microbiology: [**11-20**] sputum GNRs
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**].
   - ID consult
   - Continue Vanc and meropenem and flagyl
   - Diurese today, goal 1L negative, with 40 lasix and 100 spironolactone
   this morning; check I&O  this afternoon; follow lytes closely
   .
   # Hypernatremia:  Free water deficit of 4.8 liters [**11-20**], given D5
   @ 150cc/hr x 1500cc.  Free water deficit 3.9L [**11-21**] and given 1L D5W.
   - Continues hypernatremic, although improved, concern contributing to
   AMS
   - 200mL Q 4 hr water flushes
   - check 5pm Na, K, Mg
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - plastics recs re: bleed
   - transfuse 1U PRBCs, check post-transfusion HCT; will consider 2^nd
   unit.
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning
   - daily INR
   - hold on giving FFP or cryo today
   .
   #. Altered mental status: Likely secondary to hypoxia Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Likely due to head wound bleeding.
   - Transfuse 1U PRBCs today, will consider 2^nd unit
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 26. In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head  CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, and 200cc
   free water flushes q4h.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   # Dispo:  ICU for now, consider call out in [**12-12**] days

2156-11-23 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Na 147 this AM
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-11-20**] 12:00 PM
   Metronidazole - [**2156-11-23**] 02:07 AM
   Meropenem - [**2156-11-23**] 06:05 AM
   Vancomycin - [**2156-11-23**] 08:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-23**] 08:03 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-23**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 91 (83 - 95) bpm
   BP: 111/49(65) {107/43(60) - 132/64(76)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  4,187 mL
                                                                  2,263 mL
   PO:
             TF:
                                                                    191 mL
                                                                    424 mL
   IVF:
                                                                  3,426 mL
                                                                  1,359 mL
   Blood products:
   Total out:
                                                                    943 mL
                                                                    302 mL
   Urine:
                                                                    943 mL
                                                                    302 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,244 mL
                                                                  1,961 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, head dressing in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.3 g/dL
   31 K/uL
   167 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.5 mEq/L
   26 mg/dL
   113 mEq/L
   147 mEq/L
   19.1 %
   4.3 K/uL
        [image002.jpg]
                            [**2156-11-18**]  02:35 AM
                            [**2156-11-18**]  11:52 AM
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
                            [**2156-11-22**]  03:54 PM
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
   WBC
   5.4
   5.5
   5.2
   3.8
   4.5
   4.3
   Hct
   25.8
   24.7
   23.0
   24.0
   21.7
   19.1
   Plt
    37
   60
   39
   41
   41
   31
   Cr
   0.9
   0.9
   0.7
   0.7
   0.6
   0.7
   0.8
   TCO2
   34
   39
   Glucose
   150
   138
   168
   147
   417
   167
   Other labs: PT / PTT / INR:29.4/59.2/2.9, ALT / AST:27/49, Alk Phos / T
   Bili:172/14.8, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:68 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL, LDH:366 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46 yo man with cirrhosis, intracranial hemorrhage s/p fall, recurrent
   respiratory failure.
   1. Respiratory Failure: Extubated.  Cont vanc/[**Last Name (un) **].  Would try to start
   diuresis today
   2. Hypernatremia: Na trending down --> cont to replete fH20.
   3. Intracranial hemorrhage: Stable
   4. Coagulopathy/Anemia: Hct down today - head laceration is oozing
   less.  Tranfuse 1 unit pRBCs today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-11-22**] 08:10 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2156-11-24 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - oozing head wound: plastics is hesitant to suture the wound given how
   old it is; will round on pt in am. in the mean time, placing occlusive
   ace bandage.
   - given decr in HCT and failure of HCT to increase with 1U PRBCs (19 ->
   19.9), pt was written for 2U FFP, 1U Plt, and a 2nd unit PRBCs.
   - hypernatremia: wrote for free water replacement w. D5 at rate of
   160mLs/hr x 1500 mL (3.2L deficit), as pt went from 147 -> 150 after
   increasing free H2O flushes (from 200 to 250mL Q 4hr).
   - volume status: pt did not meet goal of negative fluid balance today,
   was >3L positive at [**2146**] after lasix 40/spironolactone 100, wrote for
   lasix 80/spironolactone 200.
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Vancomycin - [**2156-11-23**] 08:00 PM
   Metronidazole - [**2156-11-24**] 02:00 AM
   Meropenem - [**2156-11-24**] 05:57 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-11-23**] 08:03 AM
   Furosemide (Lasix) - [**2156-11-23**] 08:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-24**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 95 (84 - 96) bpm
   BP: 124/54(70) {94/41(56) - 125/64(108)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
           Total In:
                                                                  6,555 mL
                                                                  3,283 mL
   PO:
           TF:
                                                                  1,385 mL
                                                                    489 mL
   IVF:
                                                                  2,608 mL
                                                                  1,243 mL
   Blood products:
                                                                    872 mL
                                                                    871 mL
   Total out:
                                                                  2,637 mL
                                                                    465 mL
   Urine:
                                                                  1,437 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,918 mL
                                                                  2,818 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GEN: nad, responsive, follows commands
   CV: rrr, no murmurs
   PULM: relatively clear b/l
   ABD: soft, nt, +distended
   EXTR: 2+  edema
   Labs / Radiology
   63 K/uL
   6.8 g/dL
   548 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.1 mEq/L
   24 mg/dL
   99 mEq/L
   135 mEq/L
   19.7 %
   4.8 K/uL
        [image002.jpg]
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
                            [**2156-11-22**]  03:54 PM
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
                            [**2156-11-23**]  05:34 PM
                            [**2156-11-24**]  04:17 AM
   WBC
   5.5
   5.2
   3.8
   4.5
   4.3
   4.8
   Hct
   24.7
   23.0
   24.0
   21.7
   19.1
   19.9
   19.7
   Plt
   60
   39
   41
   41
   31
   63
   Cr
   0.9
   0.9
   0.7
   0.7
   0.6
   0.7
   0.8
   0.8
   0.7
   TCO2
   39
   Glucose
   150
   138
   168
   147
   417
   167
   548
   Other labs: PT / PTT / INR:24.1/50.0/2.3, ALT / AST:39/65, Alk Phos / T
   Bili:206/14.6, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:68 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:375 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: .
   Microbiology: [**2156-11-20**] 9:39 pm SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
                               **FINAL REPORT [**2156-11-23**]**
      GRAM STAIN (Final [**2156-11-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Final [**2156-11-23**]):
         Commensal Respiratory Flora Absent.
         ENTEROBACTER CLOACAE.    SPARSE GROWTH.
            This organism may develop resistance to third generation
            cephalosporins during prolonged therapy. Therefore, isolates
   that
            are initially susceptible may become resistant within three to
            four days after initiation of therapy.  For serious
   infections,
            repeat culture and sensitivity testing may therefore be
   warranted
            if third generation cephalosporins were used.
         YEAST.    SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ENTEROBACTER CLOACAE
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN/TAZO-----    16 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct.  No clear source of bleed, but increased somnolence this morning.
   - q6h hct; transfuse as needed for unstable hct
   - Head CT to r/o bleed given increased somnolence
   - Torso CT to r/o bleed given falling hct with significantly elevated
   INR
   - daily INR
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**].
   - ID consult
   - d/c Vanc and flagyl
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   .
   # Hypernatremia:  Free water deficit of 4.8 liters [**11-20**], given D5
   @ 150cc/hr x 1500cc.  Free water deficit 3.9L [**11-21**] and given 1L D5W.
   Concern hypernatremia contributing to AMS.
   - No longer hypernatremic; now borderline hyponatremic.  Hold IVF for
   today.
   - Decrease free water flushes from 200mL Q4h to 100cc q6h
   - check pm lytes
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - plastics recs re: bleed
   - transfuse 1U PRBCs, check post-transfusion HCT; will consider 2^nd
   unit.
   .
   #. Altered mental status: Likely secondary to hypoxia Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Likely due to head wound bleeding.
   - Transfuse 1U PRBCs today, will consider 2^nd unit
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 26. In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head  CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, and 200cc
   free water flushes q4h.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   # Dispo:  ICU for now until hct stabilized.  Arrange family meeting
   with social work and hepatology present to discuss prognosis and goals
   of care.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-11-24**] 07:06 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-11-24 10:08:00 Physician Attending Progress Note
Chief Complaint: Intracranial hemorrhage, respiratory failurej
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Recieved 2 units pRBCs yesterday
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Metronidazole - [**2156-11-24**] 02:00 AM
   Meropenem - [**2156-11-24**] 05:57 AM
   Vancomycin - [**2156-11-24**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-11-23**] 08:53 PM
   Pantoprazole (Protonix) - [**2156-11-24**] 08:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-24**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 93 (84 - 96) bpm
   BP: 116/53(69) {94/41(56) - 125/57(108)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
           Total In:
                                                                  6,555 mL
                                                                  3,854 mL
   PO:
           TF:
                                                                  1,385 mL
                                                                    643 mL
   IVF:
                                                                  2,608 mL
                                                                  1,460 mL
   Blood products:
                                                                    872 mL
                                                                    871 mL
   Total out:
                                                                  2,637 mL
                                                                  1,555 mL
   Urine:
                                                                  1,437 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,918 mL
                                                                  2,300 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Forehead lac/hemotoma improved
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   63 K/uL
   548 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.1 mEq/L
   24 mg/dL
   99 mEq/L
   135 mEq/L
   19.7 %
   4.8 K/uL
        [image002.jpg]
                            [**2156-11-19**]  02:27 AM
                            [**2156-11-20**]  02:16 PM
                            [**2156-11-20**]  05:27 PM
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
                            [**2156-11-22**]  03:54 PM
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
                            [**2156-11-23**]  05:34 PM
                            [**2156-11-24**]  04:17 AM
   WBC
   5.5
   5.2
   3.8
   4.5
   4.3
   4.8
   Hct
   24.7
   23.0
   24.0
   21.7
   19.1
   19.9
   19.7
   Plt
   60
   39
   41
   41
   31
   63
   Cr
   0.9
   0.9
   0.7
   0.7
   0.6
   0.7
   0.8
   0.8
   0.7
   TCO2
   39
   Glucose
   150
   138
   168
   147
   417
   167
   548
   Other labs: PT / PTT / INR:24.1/50.0/2.3, ALT / AST:39/65, Alk Phos / T
   Bili:206/14.6, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:68 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.1 g/dL, LDH:375 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46 yo man with cirrhosis, intracranial hemorrhage s/p fall, recurrent
   respiratory failure.
   1. Respiratory Failure: MS still poor but able to control own airway at
   present.  D/C vanc/flagyl.  Cont [**Last Name (un) **].  Diuresis as tolerated
   2. Hypernatremia: normalized
   3. Intracranial hemorrhage: Stable
   4. Coagulopathy/Anemia: Hct continues to drift down despite 2 units of
   pRBCs.  Does not appear to be oozing from his head at the present.
   Source unclear - Guaiac negative.  Will recheck head CT - though
   unlikely that intraparenchymal rebleed would be reflected in this
   degree of Hct drop.  Check non-contrast abd CT.  Hemolysis labs.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-11-24**] 07:06 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2156-11-25 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: cirrhosis, intracranial bleed, altered mental status,
   respiratory failure
   24 Hour Events:
   - Per Radiology:  CT torso showed persistent intrahepatic biliary
   dilitation concerning for possible cholangiocarcinoma; patient should
   have ERCP/MRCP to further evaluate
   - Vanc/Flagyl d/c'ed
   - Social work contact[**Name (NI) **] to arrange family meeting with hepatology
   present
   - q6h Hct stable
   - Lasix 40mg IV given
   - Decreased free water flushes; PM Na 147, free water flushes increased
   back from 100cc q6h to 200cc q6h
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Metronidazole - [**2156-11-24**] 02:00 AM
   Vancomycin - [**2156-11-24**] 08:30 AM
   Meropenem - [**2156-11-25**] 06:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-11-24**] 06:00 PM
   Pantoprazole (Protonix) - [**2156-11-24**] 07:51 PM
   Other medications:
   Flowsheet Data as of  [**2156-11-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 82 (82 - 95) bpm
   BP: 106/55(66) {90/45(57) - 149/104(112)} mmHg
   RR: 17 (16 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  5,639 mL
                                                                  1,030 mL
   PO:
             TF:
                                                                  1,501 mL
                                                                    446 mL
   IVF:
                                                                  1,732 mL
                                                                    234 mL
   Blood products:
                                                                    871 mL
   Total out:
                                                                  2,053 mL
                                                                  1,025 mL
   Urine:
                                                                  1,053 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,586 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   GEN: nad, responsive,
   CV: rrr, no murmurs
   PULM: relatively clear b/l
   ABD: soft, nt, +distended
   EXTR: 2+  edema
   Labs / Radiology
   57 K/uL
   7.1 g/dL
   128 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.4 mEq/L
   33 mg/dL
   108 mEq/L
   146 mEq/L
   21.0 %
   6.2 K/uL
        [image002.jpg]
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
                            [**2156-11-22**]  03:54 PM
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
                            [**2156-11-23**]  05:34 PM
                            [**2156-11-24**]  04:17 AM
                            [**2156-11-24**]  10:48 AM
                            [**2156-11-24**]  05:09 PM
                            [**2156-11-25**]  01:27 AM
   WBC
   3.8
   4.5
   4.3
   4.8
   6.7
   7.1
   6.2
   Hct
   24.0
   21.7
   19.1
   19.9
   19.7
   21.3
   21.9
   21.0
   Plt
   41
   41
   31
   63
   68
   68
   57
   Cr
   0.7
   0.7
   0.6
   0.7
   0.8
   0.8
   0.7
   0.9
   0.9
   Glucose
   168
   147
   417
   167
   548
   184
   128
   Other labs: PT / PTT / INR:29.6/51.9/2.9, ALT / AST:39/69, Alk Phos / T
   Bili:246/16.1, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL, LDH:429 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Imaging: CT head: Decreased right frontal intracranial hemorrhage with
   unchanged 2mm shift of
   midline structures to the left. reduction in right parafalcine sdh.
   Extra-
   axial collection along the left cerebral convexity remains unchanged.
   No new foci of hemorrhage.
   CT chest/abd/pelvis: persistent intrahepatic biliary dilitation
   concerning for possible cholangiocarcinoma; patient should have
   ERCP/MRCP to further evaluate
   Microbiology: [**11-20**] sputum cxr - ENTEROBACTER CLOACAE.    SPARSE
   GROWTH.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46M with ESLD c/b ascites, varices and encephalopathy; course
   complicated by intraparenchymal bleed, pneumonia, encephalopathy and
   current hypoxemia.
   .
   # Coagulopathy: [**1-12**] hepatic dysfunction, mild DIC on admission. Now
   holding off on repleting coagulation factors and blood products given
   stable over several days.  Minimal bleeding with suctioning.  On [**11-23**]
   patient had 2 units PRBC transfused without appropriate increase in
   hct.  No clear source of bleed, but increased somnolence this morning.
   - q6h hct; transfuse as needed for unstable hct
 HCT stable
   - daily INR
   .
   # Hypoxemia, fevers: Likely pneumonia.  Patient growing enterobacter
   cloacae which is pan-sensitive.  Continues to spike, however, despite
   broad coverage with antibiotics.  ABG demonstrates respiratory acidosis
   with metabolic alkalosis.  Acute incident today was in the context of
   worsening secretions; could have had mucous plugging.  In addition
   enterobacter has inducible resistance, perhaps the patient is no longer
   responding to the therapy. s/p extubation on [**11-21**].
   - ID consult
   - d/c Vanc and flagyl
   - Continue Meropenem x14 day course, D1 = [**11-21**], d/c after [**12-6**]
   .
   # Hypernatremia:  Free water deficit of 4.8 liters [**11-20**], given D5
   @ 150cc/hr x 1500cc.  Free water deficit 3.9L [**11-21**] and given 1L D5W.
   Concern hypernatremia contributing to AMS.
   - Continue free water flushes from 200mL Q4h
   - check pm lytes
   .
   #. Head Bleed s/p Fall: Occurred on [**2156-11-11**] and in setting of liver
   disease-related coagulopathy. Repeat scans show no significant changes
   ([**11-13**] and [**11-16**]) and neuro exam stable as above.
   - cont dilantin for seizure ppx, follow levels; per neurosurgery, pt
   will need to continue on dilantin until his h/s f/u in 1 mo w. head CT
   - daily neurology exams, follow INR and CBC daily
   - fall precautions, low bed
   - plastics recs re: bleed
   - transfuse 1U PRBCs, check post-transfusion HCT; will consider 2nd
   unit.
   .
   #. Altered mental status: Likely secondary to hypoxia Improving. Was
   secondary to intraparenchymal hemorrhage, and hepatic encephalopathy.
   The patient has known decompensated liver disease with a previous
   history of encephalopathy.
   - cont lactulose and rifaximin ([**2-12**] BM per day)
   .
   #. Anemia: Likely due to head wound bleeding.
   - Transfuse 1U PRBCs today, will consider 2nd unit
   - Guaiac all stools
   - Will monitor NGT output for bleeding
   .
   #. ESLD: No viral etiologies per OSH records. Most likely related to
   EtOH. Patient had EtOH level on admission. Pt also has long standing
   ductal dilitation. MELD is currently 26. In records that has varices
   though unclear what or if esophageal.
   - cont lactulose and rifaximin
   - f/u hepatology recs
   - trend MELD scores
   .
   #. Transverse Process Fractures: Per neurosurgery are non-operative.
   Does not need cervical collar or log roll precautions.
   - Follow-up with Dr. [**First Name (STitle) 363**] in 4 weeks with a non-contrast head  CT.
   Call [**Telephone/Fax (1) 8464**] to schedule an appointment on the [**Location (un) 9850**] of the
   [**Hospital Unit Name 9838**] - [**Hospital Unit Name 9839**].
   .
   #. Shallow Toe Ulcer: Podiatry saw and signed off. Likely mild
   cellulitis treated with broad spec abx. Needs out pt f/u
   - make outpt f/u apt
   .
   # FEN: Follow nutrition recommendations. Start tubefeeds, and 200cc
   free water flushes q4h.
   # PPX: PPI IV BID for now assuming there are varices/gastritis, no
   heparin, bowel regimen, venodynes
   # CODE: Full code.
   # Access: PICC line c/s placed.
   .
   # CONTACT: [**Name (NI) 83**] formal HCP. Brother has been signing consents. [**Name (NI) 2255**]
   (brother) [**Telephone/Fax (1) 9357**]. Other family numbers: [**Name (NI) 1515**] (mother) [**Telephone/Fax (1) 9642**], and [**Telephone/Fax (1) 9359**]. Girlfriend [**Name (NI) 7080**] [**Name (NI) 9340**] [**Telephone/Fax (1) 9341**] has been
   main decision maker. GF was on the way to getting HCP status when
   recent fall happened.  Brother aware of intubation on [**11-13**].
   # Dispo:  ICU for now until HCT stabilized.  Arrange family meeting
   with social work and hepatology present to discuss prognosis and goals
   of care.

2156-11-25 10:53:00 Physician Attending Progress Note
Chief Complaint: Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MS remains poor
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Metronidazole - [**2156-11-24**] 02:00 AM
   Vancomycin - [**2156-11-24**] 08:30 AM
   Meropenem - [**2156-11-25**] 06:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-11-24**] 06:00 PM
   Pantoprazole (Protonix) - [**2156-11-24**] 07:51 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-11-25**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 88 (82 - 95) bpm
   BP: 114/56(79) {90/45(57) - 149/104(112)} mmHg
   RR: 18 (16 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80.8 kg
   Height: 72 Inch
             Total In:
                                                                  5,639 mL
                                                                  1,600 mL
   PO:
             TF:
                                                                  1,501 mL
                                                                    706 mL
   IVF:
                                                                  1,732 mL
                                                                    254 mL
   Blood products:
                                                                    871 mL
   Total out:
                                                                  2,053 mL
                                                                  1,185 mL
   Urine:
                                                                  1,053 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,586 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, forehead dressing c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, some
   response to voice but not directed
   Labs / Radiology
   7.1 g/dL
   57 K/uL
   128 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.4 mEq/L
   33 mg/dL
   108 mEq/L
   146 mEq/L
   21.0 %
   6.2 K/uL
        [image002.jpg]
                            [**2156-11-21**]  02:41 AM
                            [**2156-11-22**]  02:39 AM
                            [**2156-11-22**]  03:54 PM
                            [**2156-11-22**]  06:30 PM
                            [**2156-11-23**]  02:51 AM
                            [**2156-11-23**]  05:34 PM
                            [**2156-11-24**]  04:17 AM
                            [**2156-11-24**]  10:48 AM
                            [**2156-11-24**]  05:09 PM
                            [**2156-11-25**]  01:27 AM
   WBC
   3.8
   4.5
   4.3
   4.8
   6.7
   7.1
   6.2
   Hct
   24.0
   21.7
   19.1
   19.9
   19.7
   21.3
   21.9
   21.0
   Plt
   41
   41
   31
   63
   68
   68
   57
   Cr
   0.7
   0.7
   0.6
   0.7
   0.8
   0.8
   0.7
   0.9
   0.9
   Glucose
   168
   147
   417
   167
   548
   184
   128
   Other labs: PT / PTT / INR:29.6/51.9/2.9, ALT / AST:39/69, Alk Phos / T
   Bili:246/16.1, Amylase / Lipase:/20, Differential-Neuts:79.8 %,
   Band:0.0 %, Lymph:11.8 %, Mono:5.9 %, Eos:2.3 %, Fibrinogen:91 mg/dL,
   Lactic Acid:1.7 mmol/L, Albumin:3.4 g/dL, LDH:429 IU/L, Ca++:9.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Imaging: CT head - unchanged
   CT chest - large b/l effusions
   CT abd: intrahepatic ductal dilatation
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 CIRRHOSIS OF LIVER, ALCOHOLIC
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SUBDURAL HEMORRHAGE (SDH)
   46 yo man with cirrhosis, intracranial hemorrhage s/p fall, recurrent
   respiratory failure.
   1. Respiratory Failure: MS [**Name13 (STitle) 9929**] poor but able to control own airway
   at present.  Cont [**Last Name (un) **].  Diuresis as tolerated - large effusions on
   2. Hypernatremia: restart fH20 flushes
   3. Intracranial hemorrhage: Stable but CT yesterday
   4. Coagulopathy/Anemia: No source seen on torso CT and head CT for
   decreased Hct --> main source may have been head laceration.
   5. Cirrhosis: does have intrahepatic ductal dilation on abd CT.  cannot
   not tolerate MRCP at this point for closer eval
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2156-11-24**] 11:26 PM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2156-11-20**] 11:01 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:
   ------ Protected Section ------
   Had family meeting this afternoon with Mr. [**Known lastname 326**]
s girlfriend and
   mother
 Dr. [**Last Name (STitle) 9935**] from hepatology gave an overview of the pt
   current condition and explained to them that more time is necessary to
   see if mental status will improve.  We will plan for him to go out to
   [**Hospital Ward Name 408**] 10 today, but the family is interested in transferring him to
   [**Hospital3 6748**] Center in [**Location (un) 573**], NH if his condition stabilized
   to the point where transfer is safe.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2966**] [**Name8 (MD) 2967**], MD
   on:[**2156-11-25**] 15:14 ------